US07816522B2
(33c) 5-fluoro-8-methoxychromane-6-carbaldehyde
To a solution of 3.6 g of 5-fluoro-8-methoxychromane and 4.2 ml of N,N,N′,N′,N″-pentamethyldiethylenetriamine in 130 ml of THF there was added dropwise 8 ml of n-butyllithium (2.55 M, hexane solution) at −74° C. After stirring at −74° C. for 1 hour, N-formylmorpholine was added. After further stirring at room temperature for 1 hour, 1N hydrochloric acid was added to the reaction mixture while cooling on ice, and the mixture was extracted with ethyl acetate and dried over anhydrous magnesium sulfate. The desiccating agent was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-heptane) to give the title compound (1.50 g) as a white solid.

reactant | 5-fluoro-8-methoxychromane | 3.6 g | FC1=C2CCCOC2=C(C=C1)OC | C10H11FO2
reactant | N,N,N′,N′,N″-pentamethyldiethylenetriamine | 4.2 ml | CN(C)CCN(C)CCN(C)C | C9H23N3
reactant | n-butyllithium | 2.55 M, 8 ml | C(CCC)[Li]
reactant | N-formylmorpholine | C(=O)N1CCOCC1 | C5H9NO2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 130 ml | C1CCOC1 | C4H8O
product | 5-fluoro-8-methoxychromane-6-carbaldehyde | 1.50 g | FC1=C2CCCOC2=C(C=C1C=O)OC | C11H11FO3
